US07008950B1
Methyl 4-[[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-yl]oxymethyl]benzoate
Using methyl 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol and methyl 4-(bromomethyl)methylbenzoate, the title compound was obtained in the same manner as in Example 1.

reactant | methyl 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol | CC1(C(OC2=C1C(=C(C(=C2C)C)O)C)(C)C)C2=CC=C(C=C2)C(C)C | C23H30O2
reactant | methyl 4-(bromomethyl)methylbenzoate | BrCC1=CC(=C(C(=O)OC)C=C1)C | C10H11BrO2
product | Methyl 4-[[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-yl]oxymethyl]benzoate | Yield: 82% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)OCC2=CC=C(C(=O)OC)C=C2)C)(C)C | C31H36O4
